US06034267
0.5 g 5-aminolevulinic acid hydrochloride was dissolved in 100 ml dry n-propanol containing 1-2 drops of conc. hydrochloride in a 250 ml glass reactor equipped with a stirrer, reflux condenser and a thermometer. The reaction mixture was stirred at 70-80° C. for approx. 20 hours. After all the 5-aminolevulinic acid was converted to its n-propylester (followed by 1H-NMR), the excess propanol was removed, and the product dried under high vacuum (<1 mBar) at 40-50° C. The reaction gave 0.49 g propyl 5-aminolevulinate hydrochloride. The structure was confirmed by 1H-NMR in DMSO-d6.

reactant | 5-aminolevulinic acid hydrochloride | 0.5 g | Cl.NCC(CCC(=O)O)=O
reactant | 5-aminolevulinic acid | NCC(CCC(=O)O)=O | C5H9NO3
catalyst | n-propanol | 100 ml | C(CC)O | C3H8O
solvent | hydrochloride | Cl | ClH
product | propyl 5-aminolevulinate hydrochloride | 0.49 g | Cl.NCC(CCC(=O)OCCC)=O | InChI=1S/C8H15NO3.ClH/c1-2-5-12-8(11)4-3-7(10)6-9;/h2-6,9H2,1H3;1H
